US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of (R)-4-((R)-1-((1-cyclopropyl-5-phenyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one:, using instead 2-(4-(difluoromethoxy)-3-methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (123.6 mg, 0.412 mmol) as a starting material to afford 60.0 mg (47.8%) of (R)-4-((R)-1-((1-cyclopropyl-5-(4-(difluoromethoxy)-3-methoxyphenyl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: (GS0697836). 1H NMR (300 MHz, DMSO-d6) δ 8.09 (s, 1H), 7.58 (s, 1H), 7.47 (d, J=1.2 Hz, 1H), 7.37 (d, J=1.8, 1H), 7.26-7.19 (m, 2H), 7.06 (t, J=8.4 Hz, 1H). 7.06 (t, J=75 Hz, 1H), 7.05 (s, 1H), 4.88-4.82 (m, 1H), 3.92 (s, 3H), 3.72-3.65 (m, 1H), 3.38 (t, J=9.3 Hz, 1H), 3.18 (dd, J=6.3, 6.9 Hz, 1H), 2.83-2.76 (m, 1H), 2.39-2.21 (m, 2H), 1.30 (d, J=6 Hz, 3H), 1.15-0.99 (m, 4H), LCMS-ESI+ (m/z): [M+H]+ calcd for C24H25F2N3O4:457.18; found 458.17.

reactant | (R)-4-((R)-1-((1-cyclopropyl-5-phenyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC=CC=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C22H23N3O2
reactant | 2-(4-(difluoromethoxy)-3-methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.412 mmol, 123.6 mg | FC(OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC)F | C14H19BF2O4
product | (R)-4-((R)-1-((1-cyclopropyl-5-(4-(difluoromethoxy)-3-methoxyphenyl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | 60.0 mg, 47.8% | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC(=C(C=C2)OC(F)F)OC)O[C@H](C)[C@@H]2CC(NC2)=O | C24H25F2N3O4
